US04366160
A solution of 1.84 g of 1-(benzyloxy)-2-[(2-chloro-5-methoxyphenyl)imino]imidazolidine in 10 ml of ethanol and 0.65 ml of 25 percent hydrochloric acid is hydrogenated over palladium/carbon. The catalyst is subsequently removed by filtration and the solution obtained is evaporated in vacuo. There is obtained 2-[(2-chloro-5-methoxyphenyl)imino]-1-hydroxyimidazolidine hydrochloride of melting point 182°-184° (acetone).

reactant | 1-(benzyloxy)-2-[(2-chloro-5-methoxyphenyl)imino]imidazolidine | 1.84 g | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC(=C1)OC)Cl | C17H18ClN3O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 0.65 ml | Cl | ClH
catalyst | palladium/carbon | [Pd] | Pd
product | 2-[(2-chloro-5-methoxyphenyl)imino]-1-hydroxyimidazolidine hydrochloride | Cl.ClC1=C(C=C(C=C1)OC)N=C1N(CCN1)O | InChI=1S/C10H12ClN3O2.ClH/c1-16-7-2-3-8(11)9(6-7)13-10-12-4-5-14(10)15;/h2-3,6,15H,4-5H2,1H3,(H,12,13);1H
